US07902239B2
1-(2-Fluoro-4-iodo-phenyl)-N3-(4-morpholin-4-yl-phenyl)-1H-[1,2,4]triazole-3,5-diamine:
A mixture of N-cyano-N′-(4-morpholino-phenyl)-O-phenylisourea (0.69 g, 2.14 mmol) and 2-fluoro-4-iodo-phenylhydrazine (0.65 g, 2.57 mmol) in dimetheyl acetamide (4 mL) was heated at 120° C. for 24 h. The reaction is diluted with ethyl acetate, washed with water (3 times) and brine, dried (sodium sulfate) and evaporated. Purification by flash chromatography (SiO2) eluted with 4:96 methanol:dichloromethane, followed by semi-preparative HPLC provided the title compound (0.03 g, 5% yield) as a white lyophilate.

reactant | N-cyano-N′-(4-morpholino-phenyl)-O-phenylisourea | 2.14 mmol, 0.69 g | C(#N)NC(OC1=CC=CC=C1)=NC1=CC=C(C=C1)N1CCOCC1 | C18H18N4O2
reactant | 2-fluoro-4-iodo-phenylhydrazine | 2.57 mmol, 0.65 g | FC1=C(C=CC(=C1)I)NN | C6H6FIN2
solvent | acetamide | 4 mL | C(C)(=O)N | C2H5NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-Fluoro-4-iodo-phenyl)-N3-(4-morpholin-4-yl-phenyl)-1H-[1,2,4]triazole-3,5-diamine | 0.03 g, 5% yield | FC1=C(C=CC(=C1)I)N1N=C(N=C1N)NC1=CC=C(C=C1)N1CCOCC1 | C18H18FIN6O
